US04349685
5-[3-(Trifluoromethyl)phenylcarbamoyloxy]-1,3-benzoxathiol-2-one
5-hydroxy-1,3-benzoxathiol-2-one (16.8 grams) was mixed with 3-(trifluoromethyl)phenyl isocyanate (18.7 grams) and 1.01 grams of triethylamine in 200 milliliters of methyl ethyl ketone. This solution was heated at reflux temperature for one hour, after which the solvent was removed by evaporation in vacuo. The resulting residue was recrystallized twice from ethyl acetate, leaving the desired purified product, 5-[3-(trifluoromethyl)phenylcarbamoyloxy]-1,3-benzoxathiol-2-one. The product was a white crystalline solid which exhibited a melting point of 166.5°-168° C. Elemental analysis calculated for C15H8F3NO4S (percent): carbon--50.71; hydrogen--2.27; nitrogen--3.94. Found: carbon--51.0; hydrogen--2.29; nitrogen--4.11.

reactant | 5-hydroxy-1,3-benzoxathiol-2-one | 16.8 grams | OC=1C=CC2=C(SC(O2)=O)C1 | C7H4O3S
reactant | 3-(trifluoromethyl)phenyl isocyanate | 18.7 grams | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
reactant | triethylamine | 1.01 grams | C(C)N(CC)CC | C6H15N
solvent | methyl ethyl ketone | 200 milliliters | C(C)C(=O)C | C4H8O
product | 5-[3-(Trifluoromethyl)phenylcarbamoyloxy]-1,3-benzoxathiol-2-one | FC(C=1C=C(C=CC1)NC(=O)OC=1C=CC2=C(SC(O2)=O)C1)(F)F | C15H8F3NO4S
